US09023846B2
2,4-Dichloro-6-(2,6-dichloro-phenyl)-3-nitro-pyridine (94.4 mg, 0.279 mmol, prepared as described in the previous step) was placed in a 8 mL vial equipped with a stir bar and dry MeOH (2 mL) was added via syringe. The resulting solution was gently heated with a heat gun to dissolve the solid and 7M NH3 in MeOH (2.00 mL, 14.0 mmol) was added via syringe. The resulting mixture was stirred at room temperature for 16 h and the solvent was removed under reduced pressure. The resulting residue was purified by preparative thin layer chromatography (TLC) on a 2000μ SiO2 plate developed with 1:4 EtOAc/heptane to yield 2-chloro-6-(2,6-dichlorophenyl)-3-nitropyridin-4-ylamine. 1H-NMR (400 MHz, CDCl3) δ: 7.33-7.45 (m, 2H), 7.27-7.33 (m, 1H), 6.68 (s, 1H), 5.86 (br. s., 2H). LCMS (ESI): Calculated for C11H6ClN3O2: 318.0 (M+H); Measured: 318.0.

reactant | 2,4-Dichloro-6-(2,6-dichloro-phenyl)-3-nitro-pyridine | ClC1=NC(=CC(=C1[N+](=O)[O-])Cl)C1=C(C=CC=C1Cl)Cl | C11H4Cl4N2O2
reactant | NH3 | 7M | N | H3N
solvent | MeOH | 2 mL | CO | CH4O
solvent | MeOH | 14.0 mmol, 2.00 mL | CO | CH4O
product | 2-chloro-6-(2,6-dichlorophenyl)-3-nitropyridin-4-ylamine | ClC1=NC(=CC(=C1[N+](=O)[O-])N)C1=C(C=CC=C1Cl)Cl | C11H6Cl3N3O2
